US06797823B1
N-(2-Chloro-4-{[7-methoxy-6-(2-pyridyl-methoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea
A starting compound (N-{2-chloro-4-[(6-hydroxy-7-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 2-(chloromethyl)pyridine hydrochloride (41 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 120° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ethyl acetate to give 54 mg (yield 55%) of the title compound.

reactant | N-{2-chloro-4-[(6-hydroxy-7-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)O)OC)NC(=O)NCCC | C19H19ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethyl)pyridine hydrochloride | 41 mg | Cl.ClCC1=NC=CC=C1
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[7-methoxy-6-(2-pyridyl-methoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea | 54 mg, yield 55% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OCC1=NC=CC=C1)OC)NC(=O)NCCC | C25H24ClN5O4
